Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Right lower extremity pain
 
Major Surgical or Invasive Procedure:
Open Reduction and internal fixation with IMN of right tibia 

 
History of Present Illness:
Mr. ___ is a relatively healthy ___ who p/w RLE pain and 
deformity after being struck by a truck. He states he was 
standing behind the truck assisting his wife back up with a boat 
and hitch on their way to ___ when he believes his wife's 
foot slipped from the brake and he was struck. He denies HS or 
LOC but did go through a fence. He had a small anterior leg 
wound and immediate pain and deformity of his RLE. He was 
brought in by EMS for further eval and management. Tetanus UTD. 
Denies any numbness or tingling in the RLE. 
 
Past Medical History:
Hyperlipidemia
 
Social History:
___
Family History:
None-contributory
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
General: NAD, AxOx3
Vitals:
HR: 58 BP: 120/73 RR: 16 O2: 98% RA 
Right lower extremity:
- small, approx. 1.5-2cm wound over anterior tibia just distal 
to
knee joint
- TTP over ___ anterior tibia
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused
- no pain w/ passive stretch, compartments soft and compressible

PHYSICAL EXAMINATION ON DISCHARGE:
General: NAD, AxOx3
Vitals: vital signs stable
Right lower extremity:
CV: S1S2 normal, RRR, no m/r/g
Chest: normal bilateral breath sounds
Abd: soft, nontender, nondistended
- Knee immobilizer
- Mild tenderness to palpation over anterior tibia
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused
- no pain w/ passive stretch, compartments soft and compressible

 
Pertinent Results:
LABS

___ 10:40AM BLOOD WBC-8.3 RBC-4.08* Hgb-13.3* Hct-37.2* 
MCV-91 MCH-32.6* MCHC-35.8 RDW-12.3 RDWSD-40.1 Plt ___
___ 04:10AM BLOOD WBC-10.0 RBC-3.16* Hgb-10.2* Hct-29.1* 
MCV-92 MCH-32.3* MCHC-35.1 RDW-12.3 RDWSD-41.1 Plt ___
___ 12:44PM BLOOD Neuts-87.8* Lymphs-7.0* Monos-3.5* 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-14.24* AbsLymp-1.13* 
AbsMono-0.56 AbsEos-0.09 AbsBaso-0.06
___ 10:40AM BLOOD ___ PTT-26.7 ___
___ 04:10AM BLOOD Plt ___
___ 10:40AM BLOOD ___ 12:44PM BLOOD Glucose-129* UreaN-17 Creat-0.8 Na-139 
K-4.7 Cl-106 HCO3-23 AnGap-15
___ 04:10AM BLOOD Glucose-131* UreaN-16 Creat-0.8 Na-135 
K-3.9 Cl-100 HCO3-26 AnGap-13
___ 12:44PM BLOOD ALT-24 AST-28 AlkPhos-49 TotBili-0.6 
DirBili-<0.2 IndBili-0.6
___ 04:10AM BLOOD Calcium-8.3* Phos-3.0 Mg-2.3
___ 10:51AM BLOOD Glucose-116* Lactate-2.0 Na-138 K-3.9 
Cl-111* calHCO3-23
___ 10:51AM BLOOD Hgb-14.1 calcHCT-42 O2 Sat-88 COHgb-2 
MetHgb-0

IMAGING

KNEE XRAY
IMPRESSION:
There is a comminuted, angulated, moderately displaced fracture 
through the superior tibial diaphysis.  There is a bayonetted, 
transversely oriented fracture through the superior fibular 
diaphysis.  There is significant soft  tissue swelling around 
these fractures. 
The knee and ankle are otherwise unremarkable.  No suspicious 
lytic or 
sclerotic lesion is identified.  No soft tissue calcification is 
detected. 

OR TIB/FIB
IMPRESSION:
Intra medullary rod across proximal tibial diaphysis fracture.  
Again seen is proximal fibular diaphysis fracture.  For further 
details please see the intraoperative note. 

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right grade I open tibial shaft fracture and was 
admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ for open reduction and 
internal fixation of the right tibia, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to home with ___ ___ home 
visits was appropriate. The ___ hospital course was 
otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
weight bearing as tolerated in the right lower extremity, and 
will be discharged on lovenox 40mg SC for DVT prophylaxis. The 
patient will follow up with Dr. ___ routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
Statins 
Aspirin 81mg
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Enoxaparin Sodium 40 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg sc Daily Disp #*14 Syringe 
Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
RX *oxycodone 10 mg 1 tablet(s) by mouth Q4H:PRN Disp #*80 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right grade I open tibial shaft fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent, weight bearing as 
tolerated in right lower extremity.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg SC daily for 2 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

Physical Therapy:
Activity:  Ambulate
Right lower extremity:  Weight bearing as tolerated
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
Wound care: 
Site: Incision 
Type:  Surgical
Dressing:  Gauze - dry
Description: ace wrap c small sang stain
Care: Monitor s/s of infection

 
Followup Instructions:
___